US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N,2-dimethylpropanamide hydrochloride (E50)
HCl salt made according to method described in Example 41 starting from 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N,2-dimethylpropanamide (E49, 10.2 mg) to afford a yellow solid.

reactant | HCl | Cl | ClH
reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N,2-dimethylpropanamide | 10.2 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)CO)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | C33H36F6N4O4
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N,2-dimethylpropanamide hydrochloride | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)CO)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | InChI=1S/C33H36F6N4O4.ClH/c1-31(2,21-10-22(32(34,35)36)12-23(11-21)33(37,38)39)30(46)41(3)28-14-40-29(13-27(28)26-7-5-4-6-20(26)17-44)43-16-25-19-47-9-8-42(25)15-24(43)18-45;/h4-7,10-14,24-25,44-45H,8-9,15-19H2,1-3H3;1H/t24-,25-;/m0./s1
